US06211215B1
In substantially the same manner as in Working Example 109, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 3-chloromethyl-7-phenylquinoline to give 3-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-7-phenylquinoline. The yield was 59%. Recrystallization from ethanol gave colorless prisms, mp 135-136° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 3-chloromethyl-7-phenylquinoline | ClCC=1C=NC2=CC(=CC=C2C1)C1=CC=CC=C1 | C16H12ClN
product | 3-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-7-phenylquinoline | yield was 59% | N1(C=NC=C1)CCCC1=CC=C(OCC=2C=NC3=CC(=CC=C3C2)C2=CC=CC=C2)C=C1 | C28H25N3O
